US08217066B2
Step 1: 1-{4′-[3-Methyl-4-(3-phenyl-butylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid
1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester (0.1 g, 0.27 mmol), 3-phenyl-butyraldehyde (0.048 g, 0.33 mmol) and sodium triacetoxyborohydride (0.11 g, 0.54 mmol) were mixed in CH2Cl2 and stirred overnight. Lithium hydroxide monohydrate (0.100 g, 2.38 mmol) in MeOH/H2O was added and the reaction stirred at 60° C. for 1 hour. The reaction was submitted to standard aqueous workup to yield the title compound.

reactant | 1-[4′-(4-Amino-3-methyl-isoxazol-5-yl)-biphenyl-4-yl]-cyclopropanecarboxylic acid ethyl ester | 0.27 mmol, 0.1 g | C(C)OC(=O)C1(CC1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1=C(C(=NO1)C)N | C22H22N2O3
reactant | 3-phenyl-butyraldehyde | 0.33 mmol, 0.048 g | C1(=CC=CC=C1)C(CC=O)C | C10H12O
reactant | sodium triacetoxyborohydride | 0.54 mmol, 0.11 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | Lithium hydroxide monohydrate | 2.38 mmol, 0.100 g | O.[OH-].[Li+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
solvent | MeOH H2O | CO.O
product | 1-{4′-[3-Methyl-4-(3-phenyl-butylamino)-isoxazol-5-yl]-biphenyl-4-yl}-cyclopropanecarboxylic acid | CC1=NOC(=C1NCCC(C)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)C1(CC1)C(=O)O | C30H30N2O3
